US07531532B2
4-(4-Benzyloxycarbonylamino-2-fluorophenoxy)pyridine-2-carboxylic acid methyl ester
4-(4-Amino-2-fluorophenoxy)pyridine-2-carboxylic acid methyl ester (11.5 g) was dissolved in acetone (340 ml) and water (170 ml). Next, sodium hydrogencarbonate (17.3 g) was added to the reaction mixture, benzyl chloroformate (9.79 ml) was added while cooling in an ice water bath, and the mixture was stirred for 15 minutes. The reaction mixture was allowed to warm to room temperature and then the mixture was stirred for 2 hours. Benzyl chloroformate (2.45 ml) was further added to the reaction mixture while cooling in an ice water bath, and the mixture was stirred for 18 hours. After concentrating the reaction mixture under reduced pressure, ethyl acetate (500 ml) and brine (200 ml) were added to the resultant residue for partition. The separated organic layer was washed with water (100 ml) and brine (200 ml) and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and then ethyl acetate (50 ml) and hexane (30 ml) were added to the resultant solid for suspension. After filtering the solid, it was subjected to aeration drying to provide the title compound (9.6 g, 70.6%) as a pale yellow solid.

reactant | 4-(4-Amino-2-fluorophenoxy)pyridine-2-carboxylic acid methyl ester | 11.5 g | COC(=O)C1=NC=CC(=C1)OC1=C(C=C(C=C1)N)F | C13H11FN2O3
reactant | sodium hydrogencarbonate | 17.3 g | C(O)([O-])=O.[Na+]
reactant | benzyl chloroformate | 9.79 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | Benzyl chloroformate | 2.45 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | acetone | 340 ml | CC(=O)C | C3H6O
solvent | water | 170 ml | O | H2O
product | 4-(4-Benzyloxycarbonylamino-2-fluorophenoxy)pyridine-2-carboxylic acid methyl ester | 9.6 g, 70.6% | COC(=O)C1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)F | C21H17FN2O5
